US04228233
5.18 g of 2-acetylamino-4-methanesulfonyloxy-5-methylphenol and 0.8 g of p-toluenesulfonic acid were added to 100 ml of toluene and heated at reflux for 12 hours. After cooling and washing with water, concentration under a reduced pressure yielded crude crystals of 5-methanesulfonyloxy-2,6-dimethylbenzoxazole. Immediately the product was dissolved in 50 ml of methanol, to which 5 ml of water containing 2 g of sodium hydroxide was added. A crystalline product was obtained after 1 hour of reflux followed by neutralization with hydrochloric acid after cooling.

reactant | 2-acetylamino-4-methanesulfonyloxy-5-methylphenol | 5.18 g | C(C)(=O)NC1=C(C=C(C(=C1)OS(=O)(=O)C)C)O | C10H13NO5S
reactant | p-toluenesulfonic acid | 0.8 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | 5-methanesulfonyloxy-2,6-dimethylbenzoxazole | CS(=O)(=O)OC=1C(=CC2=C(N=C(O2)C)C1)C | C10H11NO4S
